US09402833B2
Int-72: Ethyl 5-(2-(2,5-difluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate
The title compound (Int-72) was prepared by the method similar to that for Int-84 using (R)-2-(2,5-difluorophenyl)-4,4-difluoropyrrolidine hydrochloride and Ethyl 5-bromopyrazolo[1,5-a]pyridine-3-carboxylate to afford as yellow solid. LCMS (ESI): m/z 408.1 (M+H).

reactant | (R)-2-(2,5-difluorophenyl)-4,4-difluoropyrrolidine hydrochloride | Cl.FC1=C(C=C(C=C1)F)[C@@H]1NCC(C1)(F)F
reactant | Ethyl 5-bromopyrazolo[1,5-a]pyridine-3-carboxylate | BrC1=CC=2N(C=C1)N=CC2C(=O)OCC | C10H9BrN2O2
product | Ethyl 5-(2-(2,5-difluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | FC1=C(C=C(C=C1)F)C1N(CC(C1)(F)F)C1=CC=2N(C=C1)N=CC2C(=O)OCC | C20H17F4N3O2
